US04670421
1-Carboxyethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoate
A flask containing 10.0 g. 4-[14-(trimethylsilyl)tetradecylamino]benzoic acid, 3.4 g. lactic acid, 500 mg. toluenesulfonic acid and 500 ml. toluene is equipped with a Soxhlet extractor charged with activated 4A Linde molecular sieves. The solution is refluxed for 24 hours, during which time the Soxhlet extractor is charged twice more with fresh sieves. The hot solution is filtered and allowed to cool, whereupon the product separates as off-white crystals.

reactant | 4-[14-(trimethylsilyl)tetradecylamino]benzoic acid | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)(C)C | C24H43NO2Si
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Carboxyethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)OC(C)C(=O)O)C=C1)(C)C | C27H47NO4Si
